US04113871
By the reaction of ethyl 9-[4-(2-aminoethyl)-phenyl]-nonane-carboxylate hydrochloride (m.p. 135°-138° C.) with 5-chloro-2-methoxybenzoyl chloride, there is obtained 9-{4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-nonane-carboxylic acid; m.p. 97°-100° C., after recrystallization from ethyl acetate.

reactant | ethyl 9-[4-(2-aminoethyl)-phenyl]-nonane-carboxylate hydrochloride | Cl.NCCC1=CC=C(C=C1)CCCCCCCCCC(=O)OCC
reactant | 5-chloro-2-methoxybenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
product | 9-{4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-nonane-carboxylic acid | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)CCCCCCCCCC(=O)O)C1)OC | C26H34ClNO4
